US04665065
7β-Formamido-3-[(pyrazolo[1,5-a]pyridinium-3-yl)methyl]-3-cephem-4-carboxylate
7β-Formamido-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid and pyrazolo[1,5-a]pyridine are reacted in the same manner as described in Example 5 to give the above-identified compound.

reactant | 7β-Formamido-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid | C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O | C13H14N2O7S
reactant | pyrazolo[1,5-a]pyridine | N1=CC=C2N1C=CC=C2 | C7H6N2
product | 7β-Formamido-3-[(pyrazolo[1,5-a]pyridinium-3-yl)methyl]-3-cephem-4-carboxylate | C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CC=2C=[NH+]N3C2C=CC=C3)C(=O)[O-])C1=O | C16H14N4O4S
